US04091115
A solution of 8 g of N-methylpiperazine in 80 ml of ethanol was added over 5 minutes to a solution of 6.32 g of 5-oxo-8,9-dihydro [5H] benzocycloheptene in 40 ml of ethanol and the mixture was stirred for 4 hours at 20° C and was then evaporated to dryness. The residue was taken up in 0.5 N hydrochloric acid and the solution was washed with ethyl acetate and made alkaline with concentrated ammonium hydroxide. The mixture was extracted with methylene chloride and the extracts were dried and evaporated to dryness to obtain 8.8 g of 7-(4-methylpiperazin-1-yl)-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene.

reactant | N-methylpiperazine | 8 g | CN1CCNCC1 | C5H12N2
reactant | 5-oxo-8,9-dihydro [5H] benzocycloheptene | 6.32 g | O=C1C=CCCC2=C1C=CC=C2 | C11H10O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 7-(4-methylpiperazin-1-yl)-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene | 8.8 g | CN1CCN(CC1)C1CC(C2=C(CC1)C=CC=C2)=O | C16H22N2O
